US03989707
A mixture of 5 parts of 6-chloro-1,3-dihydro-1-(4-piperidinyl)- 2H-benzimidazol-2-one, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 30 minutes with water-separator. After cooling for awhile, there are added 7 parts of 1-chloro-4,4-bis(4-fluorophenyl)-butane and stirring at reflux is continued for 20 hours. The reaction mixture is cooled, water is added and the layers are separated. The organic layer is dried, filtered and evaporated. The oily residue is acidified with a diluted hydrochloric acid solution. After shaking thoroughly with toluene, the latter is decanted and discarded. The aqueous acid phase, together with the residual oil, is alkalized with ammonium hydroxide and the product is extracted with toluene. The extract is dried, filtered and evaporated. The oily residue is crystallized from 2-propanol, yielding 6-chloro-1{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one 2-propanolate; mp. 174.6° C.

reactant | 6-chloro-1,3-dihydro-1-(4-piperidinyl)- 2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)C2CCNCC2)C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 1-chloro-4,4-bis(4-fluorophenyl)-butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-chloro-1{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one 2-propanolate | CC(C)[O-].ClC=1C=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C1 | InChI=1S/C28H28ClF2N3O.C3H7O/c29-21-7-12-26-27(18-21)34(28(35)32-26)24-13-16-33(17-14-24)15-1-2-25(19-3-8-22(30)9-4-19)20-5-10-23(31)11-6-20;1-3(2)4/h3-12,18,24-25H,1-2,13-17H2,(H,32,35);3H,1-2H3/q;-1
